US05750213
First, 1.7 g of lithium borohydride and 20 ml of tetrahydrofuran were placed in a 100 ml flask. Then, 60 ml of tetrahydrofuran solution in which 4 g of 2,3-difluoro-4'-[12,12-bis(ethoxycarbonyl)dodecyl]oxybiphenyl was dissolved was added dropwise to the reaction mixture, and the resultant reaction mixture was stirred under reflux for 18 hours. The reaction mixture was poured into cold diluted hydrochloric acid, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/toluene=8/2) and recrystallized from acetone to obtain 2.4 g of 2,3-difluoro-4'-[12,12-bis(hydroxymethyl)dodecyl]oxybiphenyl (Y: 71.6%). The compound thus obtained had a purity of 99.6% by HPLC.

reactant | lithium borohydride | 1.7 g | [BH4-].[Li+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
reactant | 2,3-difluoro-4'-[12,12-bis(ethoxycarbonyl)dodecyl]oxybiphenyl | 4 g | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCCCCCC(C(=O)OCC)C(=O)OCC | C30H40F2O5
product | 2,3-difluoro-4'-[12,12-bis(hydroxymethyl)dodecyl]oxybiphenyl | 2.4 g, 71.6% | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCCCCCC(CO)CO | C26H36F2O3
